US08729102B2
A) 2-bromo-5-(cyclopropylmethoxy)pyridine
A mixture of 6-bromopyridin-3-ol (10.0 g), (bromomethyl)cyclopropane (7.76 g), potassium carbonate (11.9 g), and DMF (100 mL) was stirred at 60° C. overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (12.0 g) as a colorless oil.

reactant | 6-bromopyridin-3-ol | 10.0 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | (bromomethyl)cyclopropane | 7.76 g | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-bromo-5-(cyclopropylmethoxy)pyridine | 12.0 g | BrC1=NC=C(C=C1)OCC1CC1 | C9H10BrNO
